US08865894B2
(3aR*,6R*,6aR*)-3-(2′-Amino-2-morpholino-4′-(trifluoromethyl)-[4,5′-bipyrimidin]-6-yl)-6-hydroxyhexahydro-2H-cyclopenta[d]oxazol-2-one
To a solution of (3aR*,6R*,6aR*)-3-(2′-amino-2-morpholino-4′-(trifluoromethyl)-[4,5′-bipyrimidin]-6-yl)-6-((tert-butyldimethylsilyl)oxy)hexahydro-2H-cyclopenta[d]oxazol-2-one (810 mg, 1.253 mmol) in THF (12 mL), was added dropwise 1M TBAF in THF (1.0 mL, 1.0 mmol) at 0° C. The reaction mixture was stirred for 30 min at 0° C. and 2 h at RT before evaporation. The residue was purified by flash chromatography (hexane-THF 60:40→0:100). The residue was triturated in Et2O, filtered and dried. The residue was purified by preparative HPLC (Waters Sun Fire C18, 30×100 mm, 5 um; 0.1% TFA-water/acetonitrile; gradient acetonitrile 5-100% in 20 min) to afford the title compound (430 mg, 72%); tR=0.93 min (UPLC 1), tR=0.81 min (LC-MS 3); ESI-MS: 468 [M+H]+ (LC-MS 3).

reactant | (3aR*,6R*,6aR*)-3-(2′-amino-2-morpholino-4′-(trifluoromethyl)-[4,5′-bipyrimidin]-6-yl)-6-((tert-butyldimethylsilyl)oxy)hexahydro-2H-cyclopenta[d]oxazol-2-one | 1.253 mmol, 810 mg | NC1=NC=C(C(=N1)C(F)(F)F)C1=NC(=NC(=C1)N1C(O[C@@H]2[C@H]1CC[C@H]2O[Si](C)(C)C(C)(C)C)=O)N2CCOCC2 | C25H34F3N7O4Si
reactant | TBAF | 1M | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 12 mL | C1CCOC1 | C4H8O
solvent | THF | 1.0 mmol, 1.0 mL | C1CCOC1 | C4H8O
product | (3aR*,6R*,6aR*)-3-(2′-Amino-2-morpholino-4′-(trifluoromethyl)-[4,5′-bipyrimidin]-6-yl)-6-hydroxyhexahydro-2H-cyclopenta[d]oxazol-2-one | 430 mg, 72% | NC1=NC=C(C(=N1)C(F)(F)F)C1=NC(=NC(=C1)N1C(O[C@@H]2[C@H]1CC[C@H]2O)=O)N2CCOCC2 | C19H20F3N7O4
